data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6331,"CC(C)(C)O.CCC[C:1]([N+]1=CC=C(N(C)C)C=C1)([O-:2])[O:3]C(C)=O.CCN(CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2796,"C=CCC(CC1CC(O[Si](C)(C)C(C)(C)C)CC(CC2=C([C:1](OC(NC3CCCCC3)=[NH+]C3CCCCC3)=[O:2])C(OC)=CC=C2)O1)[OH:3].CN(C)C1=CC=NC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,49,"CCC(C)CC(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7917,"O=S(=O)(O)[O:1][H:2].OCCCCC=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5174,"CC(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7512,"CC(=O)[O-:1].C[P+:2](C)(C)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,7552,"Br[CH:1]=[C:2](C1=CC=CC=C1)[O-:3].COC(=O)[C:4](C1=CC=CC=C1)=[O:5].[OH+]=C([O][K])[O][K]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6901,"CC[OH:1].C[C:2](C)([H:3])[C+:4](C)C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,2858,"CC(=O)OI1(OC(C)=O)([O+:1](C2CCC3(C)C(CCC4CC5CC43CCC5O)C2(C)C)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9274,"O[C:1](C1=CC=CC=C1)([H:2])[O:3][Na-][O+:4]=[CH:5]C1=CC=CC=C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5579,"Br[P:1](Br)[Br:2].CC=CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7380,"C=C1CCCCC12CC(CC)[O+:1]([H:2])C(O)(O)C2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8077,"O=C(O)C1=C([C:1](O)=[NH+:2]CC2=CC=CC=C2)C=CC=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3274,"CCO[C:1](C)=[O:2].CCO[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1695,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[N:1]1CC1CC1.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)[C:2](=[OH+:3])[CH:4]([H:5])C23CCN1CC1CC1.CS(=O)(=O)[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6668,"COC1=CC(I)=C(CCN(C)[C:1](OC(C)(C)C)=[O+:2][AlH2-:3][H:4])C=C1OC|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8305,"CO.COC1=C([OH:1])C2=C(C=C1)CC1C3CC=C(O)[CH+:2]C23CCN1CCC1=CC=CC=C1.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,6419,"CC[NH:1]CC.C[CH:2]=[N+:3](C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1610,"C[CH:1]=[CH2:2].O=S(=O)(C1=CC=CO1)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3741,"C[C:1](C)=[O+:2]C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9003,"CC(C)[O-:1].C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4826,"CC(C)[O-].CCCC(CC(C)C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,3780,"CC(=O)O[C:1](C)=[O:2].CC=N[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,439,"C1=CC=[N:1]C=C1.COC(CN1C(=O)C(C(=O)N[O+:2](C(C)([O-])OC(C)=O)[H:3])=CN=C1C1=CC=CC=C1)OC|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8900,"C[Si](C)(C)C[CH:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[Cl:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6589,"C1CCC2=[NH+]CCCN2CC1.CC(C)C1CCC2=C[C:1]([O-:2])=[C:3]([CH2:4][N+:5](C)(C)C)CCC21C.[I-]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4476,"BrC(Br)Br.C1=CC=C(C=CCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1.C1CCOC1|((1, 2), 2)"
train,pmechdb_split_0,0,6879,"CCCCCOCC1C(O)C[CH:1]([N+:2]2=CC(CC(C)C)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4603,"CCOC(=O)CC(CC(=O)OCC)=[O:1].CCOCC.F[B:2](F)F.OCCO|(1, 2)"
train,pmechdb_split_0,0,2863,"CCOC(=O)CC1=NC([S-:1])=NN1.[Cl-].[H:2][OH2+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3635,"CC[N:1](CC)CC.COC(=O)C[NH+:2](C(O)C1=C(C)C=CC=C1)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5881,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C(C)[N-][N+:2]#[N:3].[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1765,"O=S(=O)(O)[C:1]1([H:2])C=CC=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6632,"CC=CC[O-:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1002,"B.CCCC(CC(=O)OC(C)(C)C)[CH:1]([O-:2])[O:3]C(=O)OCC.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9072,"C[CH:1]=[O+:2]CCC[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1587,"C[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1439,"[NH2-:1].[O-]C[CH:2]([H:3])[CH2:4][Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9379,"Br[B:1](Br)Br.CCCC1=CC=C([O:2]C)C=C1|(2, 1)"
train,pmechdb_split_0,0,3868,"CC(OC(CCC1=CC=CC=C1)CC(C1=CC=CC=C1)=[O+:1][Si-:2](C)(C)(C)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1.C[Si](C)(C)O[Si](C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,7655,"CC1COP(C=C(Cl)[C:1]2(C)C(C)(C)[S+:2]2C2=CC=CC=C2)(=[O:3])O1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2457,"C1CCC2=[NH+]CCCN2CC1.CC(=O)[C:1](C(C1=CC=CC=C1)C(C=C(C)C1=CC=CC=C1)(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)[O:2][H:3])=[C:4](C1=CC=CC=C1)[O-:5].F[B-](F)(F)F|(5, 4);((4, 1), 3);((3, 2), 2)"
train,pmechdb_split_0,0,398,"CC1CCCC(C2=CC=CC=C2)[C:1](C)=[CH:2]1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8909,"CC(=O)[O-].CC1=CC[C:1](C2=CC=CC=C2)([OH2+:2])[N:3]1C1CCCCC1N.CO.O|(3, 1);((1, 2), 2)"
